US08389717B2
a) (4-Chloro-6-isopropoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
The title compound was prepared from 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine and 2,4-dichloro-6-isopropoxy-[1,3,5]triazine (Synth. Commun. 24, 2153 (1994)) in analogy to example 2a. The compound crystallized from methanol as a slightly brownish solid in 41% yield.

reactant | 3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamine | COC=1C=C(C=CC1N1C=NC(=C1)C)N | C11H13N3O
reactant | 2,4-dichloro-6-isopropoxy-[1,3,5]triazine | ClC1=NC(=NC(=N1)Cl)OC(C)C | C6H7Cl2N3O
product | (4-Chloro-6-isopropoxy-[1,3,5]triazin-2-yl)-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 41% yield | ClC1=NC(=NC(=N1)OC(C)C)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC | C17H19ClN6O2
